US05141945
A solution of 8,9-dihydro-7-[(hydroxy)(1-trityl-1H-imidazol-2-yl)methyl]-10-methylpyrido[1,2-a]indol-6(7H)-one (376 mg) in acetic acid (15 ml) and water (5 ml) was stirred at 60° C. for 2.5 hours. After evaporation of the solvent, the residue was diluted with water, neutralized with an aqueous solution of sodium hydrogencarbonate, and extracted three times with chloroform. The organic layer was washed with brine, dried over anhydrous magnesium sulfate, and evaporated in vacuo. Purification of the residue with silica gel column chromatography (15% methanol-chloroform), followed by recrystallization from methanol, gave 8,9-dihydro-7-[(hydroxy)(1H-imidazol-2-yl)-methyl]-10-methylpyrido[1,2-a]indol-6(7H)-one (148 mg).

reactant | 8,9-dihydro-7-[(hydroxy)(1-trityl-1H-imidazol-2-yl)methyl]-10-methylpyrido[1,2-a]indol-6(7H)-one | 376 mg | OC(C1CCC=2N(C3=CC=CC=C3C2C)C1=O)C=1N(C=CN1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C36H31N3O2
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
solvent | water | 5 ml | O | H2O
product | 8,9-dihydro-7-[(hydroxy)(1H-imidazol-2-yl)-methyl]-10-methylpyrido[1,2-a]indol-6(7H)-one | 148 mg | OC(C1CCC=2N(C3=CC=CC=C3C2C)C1=O)C=1NC=CN1 | C17H17N3O2
